US08802711B2
1-methylisoquinolin-3-amine
To a dry flask under N2 containing methyllithium (13 mL, 21 mmol) in THF (40 mL) at 0° C. was added a solution of 2-(cyanomethyl)benzonitrile (1.00 g, 7.03 mmol) in THF (20 mL) dropwise. After 10 minutes the ice bath was removed and the mixture was allowed to warm to ambient temperature. The mixture was quenched with saturated aqueous NH4Cl and then concentrated. The mixture was extracted twice with CH2Cl2, and the combined organic extracts were washed with brine and dried (Na2SO4). Purification by chromatography (SiO2, 10% acetone/hexanes) afforded the title compound 0.71 g (79% yield). MS (ESI) m/z 159 (M+H)+.

reactant | methyllithium | 21 mmol, 13 mL | C[Li]
reactant | 2-(cyanomethyl)benzonitrile | 7.03 mmol, 1.00 g | C(#N)CC1=C(C#N)C=CC=C1 | C9H6N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-methylisoquinolin-3-amine | 0.71 g, 79% yield | CC1=NC(=CC2=CC=CC=C12)N | C10H10N2
